data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1([C:6](=[O:21])[O:30][CH3:8])[CH2:9][CH2:24][CH2:22][N:26]1[C:23]1=[CH:13][CH2:2][CH2:25][CH2:17][CH2:7]1.[cH:3]1[c:10]([N+:18](=[O:14])[O-:28])[cH:4][c:11]([N+:19](=[O:15])[O-:27])[cH:5][c:12]1[N+:20](=[O:16])[O-:29]>>[CH:1]1([C:6](=[O:21])[O:30][CH3:8])[CH2:9][CH2:24][CH2:22][N+:26]1=[C:23]1[CH2:7][CH2:17][CH2:25][CH2:2][CH:13]1[CH:3]1[C:10](=[N+:18]([O-:14])[O-:28])[CH:4]=[C:11]([N+:19](=[O:15])[O-:27])[CH:5]=[C:12]1[N+:20](=[O:16])[O-:29]", "epd": [["LP-/Pi+", [26], [23, 26]], ["Pi-/Sigma+", [13, 23], [13, 3]], ["Pi-/Pi+", [3, 10], [10, 18]], ["Pi-/LP+", [18, 14], [14]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[o:8][c:7]([O:9][Si:2]([CH3:21])([CH3:22])[CH3:23])[cH:16][cH:24]1.[cH:3]1[c:10]([CH+:27][c:11]2[cH:4][c:14]([F:19])[cH:26][c:15]([F:20])[cH:5]2)[cH:6][c:12]([F:17])[cH:25][c:13]1[F:18]>>[CH:1]1([CH:27]([c:10]2[cH:3][c:13]([F:18])[cH:25][c:12]([F:17])[cH:6]2)[c:11]2[cH:4][c:14]([F:19])[cH:26][c:15]([F:20])[cH:5]2)[O+:8]=[C:7]([O:9][Si:2]([CH3:21])([CH3:22])[CH3:23])[CH:16]=[CH:24]1", "epd": [["LP-/Pi+", [8], [7, 8]], ["Pi-/Pi+", [16, 7], [24, 16]], ["Pi-/Sigma+", [1, 24], [1, 27]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:18][cH:5][c:8]2[c:4]1[N+:24]([CH3:11])=[CH:17][C:12]2=[CH:9][c:23]1[cH:20][cH:25][cH:28][cH:26][cH:21]1.[cH:3]1[cH:13][cH:7][c:19]2[c:6]([cH:27]1)[CH:29]([Zn-:16]([Cl:14])[Cl:15])[CH:22]=[CH:10]2>>[Cl:14][Zn:16][Cl:15].[cH:1]1[cH:2][cH:18][cH:5][c:8]2[c:4]1[n:24]([CH3:11])[cH:17][c:12]2[CH:9]([c:23]1[cH:20][cH:25][cH:28][cH:26][cH:21]1)[CH:29]1[c:6]2[c:19]([cH:7][cH:13][cH:3][cH:27]2)[CH:10]=[CH:22]1", "epd": [["Sigma-/Sigma+", [29, 16], [29, 9]], ["Pi-/Pi+", [9, 12], [12, 17]], ["Pi-/LP+", [17, 24], [24]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[C:4]1(=[CH2:10])[N:20]([CH3:5])[c:14]2[cH:8][cH:11][cH:12][cH:9][c:13]2[N:21]1[CH3:6].[O:1]([S:7][C:26]([F:17])([F:18])[F:19])[C:15]([CH3:24])([CH3:25])[c:27]1[cH:2][cH:22][cH:16][cH:23][cH:3]1>>[O-:1][C:15]([CH3:24])([CH3:25])[c:27]1[cH:2][cH:22][cH:16][cH:23][cH:3]1.[c:4]1([CH2:10][S:7][C:26]([F:17])([F:18])[F:19])[n+:20]([CH3:5])[c:14]2[cH:8][cH:11][cH:12][cH:9][c:13]2[n:21]1[CH3:6]", "epd": [["LP-/Pi+", [20], [4, 20]], ["Pi-/Sigma+", [10, 4], [10, 7]], ["Sigma-/LP+", [7, 1], [1]]]}
{"reaction_name": "Strecker multicomponent synthesis", "rsmi": "[C-:4]#[N:8].[CH3:1][C:2]([H:3])=[O:9].[H:5][N:10]([H:6])[H:7]>>[CH3:1][C:2]([H:3])([C:4]#[N:8])[N:10]([H:6])[H:7].[H:5][O-:9]", "epd": [["LP-/Sigma+", [4], [2, 4]], ["Sigma-/LP+", [2, 9], [9]], ["LP-/Sigma+", [9], [5, 9]], ["Sigma-/LP+", [5, 10], [10]], ["LP-/Sigma+", [10], [2, 10]], ["Pi-/LP+", [2, 9], [9]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:19])([O:35][CH2:4][c:17]1[cH:23][cH:7][cH:12][cH:10][cH:26]1)[N:45]=[N:44][C:2](=[O:20])[O:36][CH2:5][c:18]1[cH:24][cH:8][cH:13][cH:9][cH:25]1.[cH:3]1[cH:31][cH:39][c:47]([N:33]2[C:11](=[C:34]([c:6]3[cH:21][cH:48][cH:14][cH:49][cH:22]3)[O:15][CH3:50])[N:16]([c:54]3[cH:29][cH:42][cH:38][cH:43][cH:30]3)[N:51]=[C:41]2[c:37]2[cH:52][cH:27][cH:46][cH:28][cH:53]2)[cH:40][cH:32]1>>[C:1]([O-:19])([O:35][CH2:4][c:17]1[cH:23][cH:7][cH:12][cH:10][cH:26]1)=[N:45][N:44]([C:2](=[O:20])[O:36][CH2:5][c:18]1[cH:24][cH:8][cH:13][cH:9][cH:25]1)[C:34]([c:6]1[cH:21][cH:48][cH:14][cH:49][cH:22]1)([c:11]1[n+:16](-[c:54]2[cH:29][cH:42][cH:38][cH:43][cH:30]2)[n:51][c:41](-[c:37]2[cH:52][cH:27][cH:46][cH:28][cH:53]2)[n:33]1-[c:47]1[cH:39][cH:31][cH:3][cH:32][cH:40]1)[O:15][CH3:50]", "epd": [["LP-/Pi+", [16], [11, 16]], ["Pi-/Sigma+", [34, 11], [34, 44]], ["Pi-/Pi+", [44, 45], [45, 1]], ["Pi-/LP+", [1, 19], [19]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:2]([c:11]1[cH:4][n:10][c:14]2[c:17]([n+:8]([O-:7])[o:13][n:22]2)[cH:18]1)(=[O:20])[O-:21].[O-:1][C:19](=[CH:3][c:9]1[cH:15][cH:5][cH:24][cH:6][cH:16]1)[O:23][CH2:25][CH3:12]>>[O:1]=[C:19]([CH:3]([c:9]1[cH:15][cH:5][cH:24][cH:6][cH:16]1)[CH:18]1[C:11](=[N+:2]([O-:20])[O-:21])[CH:4]=[N:10][c:14]2[c:17]1[n+:8]([O-:7])[o:13][n:22]2)[O:23][CH2:25][CH3:12]", "epd": [["LP-/Pi+", [1], [19, 1]], ["Pi-/Sigma+", [3, 19], [3, 18]], ["Pi-/Pi+", [18, 11], [11, 2]], ["Pi-/LP+", [2, 20], [20]]]}
{"reaction_name": "Iminium arylation", "rsmi": "[CH:7]([CH3:8])=[N+:12]([CH3:9])[CH3:10].[c:1]1([B:4]([OH:2])[OH:3])[cH:13][cH:5][cH:11][cH:6][cH:14]1>>[OH:2][B+:4][OH:3].[c:1]1([CH:7]([CH3:8])[N:12]([CH3:9])[CH3:10])[cH:13][cH:5][cH:11][cH:6][cH:14]1", "epd": [["Sigma-/Sigma+", [1, 4], [1, 7]], ["Pi-/LP+", [7, 12], [12]]]}
